US06492368B1
Heating with BOC-piperazine in toluene gives in a rearrangement reaction, after customary work-up, 1-BOC-4-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylcarbamoyl]-piperazine. Removal of the BOC group with TFA in CH2C2 gives 4-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl-carbamoyl]piperazine (“C”).

reactant | BOC-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 1-BOC-4-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylcarbamoyl]-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)C(NC1=CC=C(C=C1)C1=NOC(=N1)C)=O | C19H25N5O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl-carbamoyl]piperazine | CC1=NC(=NO1)C1=CC=C(C=C1)NC(=O)N1CCNCC1 | C14H17N5O2
